US09024027B2
To a solution of methyl 2-(5-nitro-1H-indol-1-yl)acetate (830 mg, 3.54 mmol) in MeOH (50 ml), a catalytic amount of PtO2 was added, and the mixture was reacted under H2 atmosphere in a Parr apparatus at 30 psi for 15 minutes. The catalyst was filtered off, the solvent was removed and crude methyl 2-(5-amino-1H-indol-1-yl)acetate was obtained and was used in the next step without any additional purification (730 mg, 3.54 mmol, quantitative yield). MS/ESI+ 205.2 [MH]+.

reactant | methyl 2-(5-nitro-1H-indol-1-yl)acetate | 3.54 mmol, 830 mg | [N+](=O)([O-])C=1C=C2C=CN(C2=CC1)CC(=O)OC | C11H10N2O4
solvent | MeOH | 50 ml | CO | CH4O
catalyst | PtO2 | O=[Pt]=O
product | methyl 2-(5-amino-1H-indol-1-yl)acetate | quantitative yield | NC=1C=C2C=CN(C2=CC1)CC(=O)OC | C11H12N2O2
